US06972287B1
Preparation of (trans), (trans)-1,2-Dichloro-4-[4-(4-nitrophenyl)-1,3-butadienyl]benzene
A mixture of 4-nitro-benzyl bromide (200.0 g, 0.93 mol) and triphenylphosphine (244.0 g, 0.93 mol) in CHCl3 (1.5 L) was heated to reflux for overnight. The reaction mixture was cooled to room temperature, concentrated in vacuo to remove CHCl3 and then suspended in Et2O and stirred rigorously. The suspension was filtered, and the off-white solid was washed with Et2O, dried at 80° C. for 16 hours to give 433.0 g (0.91 mol, 98%) of bromo[(4-nitrophenyl)methyl]triphenylphosphine. A solution of bromo[(4-nitrophenyl)methyl]triphenylphosphine (100.0 g, 0.23 mol) in dry THF (500 mL) was cooled to 5° C. n-Butyl lithium (n-BuLi) (2.4 M, 96 mL, 0.23 mol) was added dropwise to maintain the temperature between 5° C. to 10° C. The cooling bath was then removed, and the reaction mixture was allowed to warm to room temperature. After 4 hours, a solution of (trans)-3-(3,4-dichlorophenyl)-2-propenal (36.2 g, 0.18 mol) in THF (100 mL) was added dropwise, and the resulting mixture was stirred at room temperature for 16 hours. The mixture was filtered, and the filtrate was concentrated in vacuo to give a residue. Purification by flash chromatography (silica gel, 20% EtOAc/hexane) yielded 16.0 g (0.05 mol, 28%) of the desired product. mp 125-135° C.

reactant | bromo[(4-nitrophenyl)methyl]triphenylphosphine | 0.23 mol, 100.0 g | BrP(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)CC1=CC=C(C=C1)[N+](=O)[O-] | C25H21BrNO2P
reactant | n-Butyl lithium | 0.23 mol, 2.4 M, 96 mL | C(CCC)[Li]
reactant | (trans)-3-(3,4-dichlorophenyl)-2-propenal | 0.18 mol, 36.2 g | ClC=1C=C(C=CC1Cl)/C=C/C=O | C9H6Cl2O
solvent | THF | 500 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | (trans)-1,2-Dichloro-4-[4-(4-nitrophenyl)-1,3-butadienyl]benzene | 0.05 mol, 16.0 g, 28% | ClC1=C(C=C(C=C1)\C=C\C=CC1=CC=C(C=C1)[N+](=O)[O-])Cl | C16H11Cl2NO2
